### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/QuadraticForm): generalize discr

### PR DESCRIPTION
**Pull request by mariainesdff**
This generalizes `QuadraticMap.discr`, which currently takes `Q : QuadraticMap R (n → R) R` to `QuadraticForm.discr b`, which allows `Q : QuadraticForm R M` where `M` is an `R`-module with a finite `R`-basis `b`.

The old versions are preserved since the generalizations are noncomputable, but their names are updated: `QuadraticMap` is replaced by `QuadraticForm` and `QuadraticMap.discr` is renamed to `QuadraticForm.discr'` (continuing with the notation convention [LinearMap.toMatrix'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/ToLin.html#LinearMap.toMatrix') vs [LinearMap.toMatrix](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/ToLin.html#LinearMap.toMatrix)).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 1]
```diff
@@ -1199,60 +1199,139 @@ variable {n : Type w} [Fintype n] [DecidableEq n]
 variable [CommRing R] [AddCommMonoid M] [Module R M]
 
 /-- `M.toQuadraticMap'` is the map `fun x ↦ row x * M * col x` as a quadratic form. -/
-def Matrix.toQuadraticMap' (M : Matrix n n R) : QuadraticMap R (n → R) R :=
+def Matrix.toQuadraticForm' (M : Matrix n n R) : QuadraticForm R (n → R) :=
   LinearMap.BilinMap.toQuadraticMap (Matrix.toLinearMap₂' R M)
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: @eric-wieser What's your opinion on this rename? It looks good to me, but I have essentially never interacted with this corner of the library.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 2]
```diff
@@ -1199,60 +1199,139 @@ variable {n : Type w} [Fintype n] [DecidableEq n]
 variable [CommRing R] [AddCommMonoid M] [Module R M]
 
 /-- `M.toQuadraticMap'` is the map `fun x ↦ row x * M * col x` as a quadratic form. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]:
```suggestion
/-- `M.toQuadraticForm'` is the map `fun x ↦ row x * M * col x` as a quadratic form on `n → R`. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Maybe the right thing to do would be to keep this as `toQuadraticMap` and allow the matrices to take value in a module? Again, feel free to say if I'm saying stupid things.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 3]
```diff
@@ -1199,60 +1199,139 @@ variable {n : Type w} [Fintype n] [DecidableEq n]
...
 
-/-- A matrix representation of the quadratic form. -/
-def QuadraticMap.toMatrix' (Q : QuadraticMap R (n → R) R) : Matrix n n R :=
-  LinearMap.toMatrix₂' R (associated Q)
+namespace QuadraticForm
 
-open QuadraticMap
+section Rn
+
+/-- A matrix representation of a quadratic form `Q : QuadraticForm R (n → R)`. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]:
```suggestion
/-- A matrix representation of a quadratic form `Q : QuadraticForm R (n → R)`. 
See also `QuadraticForm.toMatrix` which gives the matrix in a given basis
of a quadratic form on an abstract vector space. -/
```
(or something along those lines)

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 4]
```diff
@@ -1199,60 +1199,139 @@ variable {n : Type w} [Fintype n] [DecidableEq n]
...
+
+end Rn
+section Basis
+
+open Module QuadraticMap
+
+variable [AddCommGroup N] [Module R N] (b : Basis n R N) (Q : QuadraticForm R N)
+
+/-- A matrix representation of the quadratic form `Q : QuadraticForm R N` with respect to a
+  given basis. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]:
```suggestion
/-- A matrix representation of the quadratic form `Q : QuadraticForm R N` with respect to a
  given basis. See also `QuadraticForm.toMatrix'` for the special case of `N = n → R` with
  the standard basis. -/
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 5]
```diff
@@ -1199,60 +1199,139 @@ variable {n : Type w} [Fintype n] [DecidableEq n]
...
+variable {b Q}
+
+theorem discr_smul (a : R) : (a • Q).discr b = a ^ Fintype.card n * (Q.discr b) := by
+  simp [discr, toMatrix_smul]
+
+theorem discr_comp [AddCommGroup P] [Module R P] (b' : Basis n R P) (Q : QuadraticForm R P)
+    (f : N →ₗ[R] P) :
+    QuadraticForm.discr b (Q.comp f) =
+      (f.toMatrix b b').det * (f.toMatrix b b').det * (Q.discr b') := by
+  simp [mul_left_comm, toMatrix_comp b b', mul_comm, discr]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1330]: Can you add the lemma that `discr` on the standard basis for `Pi` gives `discr'`?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I think we did a rename in the reverse direction a while ago when we introduced QuadraticMap. I think the "value in a module" version ends up running into bimodule issues, so would discourage this from PR from thinking about it.

My preference here would be to revert all the swaps from `QuadraticMap` to QuadraticForm, and leave those to a separate PR without any mathematical changes.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:1330]: Done.

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 6]
```diff
@@ -584,14 +584,14 @@ variable {n : Type*} [Fintype n]
...
+  rw [← Q.toQuadraticMap_associated ℝ,
+    ← (LinearMap.toMatrix₂' ℝ).left_inv ((Q.associatedHom (R := ℝ) ℝ))]
   exact hQ.toQuadraticForm'
 
 theorem posDef_toMatrix' [DecidableEq n] {Q : QuadraticForm ℝ (n → ℝ)} (hQ : Q.PosDef) :
     Q.toMatrix'.PosDef := by
-  rw [← toQuadraticMap_associated ℝ Q, ←
-    (LinearMap.toMatrix₂' ℝ).left_inv ((associatedHom (R := ℝ) ℝ) Q)] at hQ
+  rw [← Q.toQuadraticMap_associated ℝ, ←
+    (LinearMap.toMatrix₂' ℝ).left_inv ((Q.associatedHom (R := ℝ) ℝ))] at hQ
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]:
```suggestion
    (LinearMap.toMatrix₂' ℝ).left_inv (Q.associatedHom ℝ)] at hQ
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 7]
```diff
@@ -584,14 +584,14 @@ variable {n : Type*} [Fintype n]
 
 theorem posDef_of_toMatrix' [DecidableEq n] {Q : QuadraticForm ℝ (n → ℝ)}
     (hQ : Q.toMatrix'.PosDef) : Q.PosDef := by
-  rw [← toQuadraticMap_associated ℝ Q,
-    ← (LinearMap.toMatrix₂' ℝ).left_inv ((associatedHom (R := ℝ) ℝ) Q)]
+  rw [← Q.toQuadraticMap_associated ℝ,
+    ← (LinearMap.toMatrix₂' ℝ).left_inv ((Q.associatedHom (R := ℝ) ℝ))]
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]:
```suggestion
    ← (LinearMap.toMatrix₂' ℝ).left_inv (Q.associatedHom ℝ)]
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 8]
```diff
@@ -1198,61 +1198,147 @@ The determinant of the matrix is the discriminant of the quadratic form.
...
+variable [AddCommGroup N] [Module R N] (b : Basis n R N) (Q : QuadraticForm R N)
+
+/-- A matrix representation of the quadratic form `Q : QuadraticForm R N` with respect to a
+  given basis. See also `QuadraticForm.toMatrix'` for the special case of `N = n → R` with
+  the standard basis. -/
+noncomputable def toMatrix : Matrix n n R :=
+  LinearMap.toMatrix₂ b b (Q.associated)
+
+lemma toMatrix_eq_toMatrix' (Q : QuadraticForm R (n → R)) :
+    Q.toMatrix (Pi.basisFun R n)  = Q.toMatrix' := by
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]:
```suggestion
    Q.toMatrix (Pi.basisFun R n) = Q.toMatrix' := by
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 1 above)
Comment (kbuzzard) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: > My preference here would be to revert all the swaps from `QuadraticMap` to QuadraticForm, and leave those to a separate PR without any mathematical changes.

I agree that in a perfect world we separate the concerns and that this is a more robust approach. But I've just read it carefully and the bottom line is that this PR looks fine and splitting it now, given that it was not originally split, doesn't really feel necessary.

**Comment by kbuzzard** [comment]
bors d+

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: Sorry, what I should have said here is "I have a bunch of comments to make about the rename, but I have refrained from making them because I think we should split first".

In particular, this PR missed the deprecations of the old names 
So either we should revert the rename part of this PR, or we should make a follow up that adds the deprecations.
